US07037905B2
5,5-Dimethyl-2-(3-trifluoromethylphenyl)-[1,3,2]dioxaborinane
The title compound (58%, crystals) was prepared from 3-trifluoromethylphenylboronic acid and neopentylglycol.

reactant | 3-trifluoromethylphenylboronic acid | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | neopentylglycol | CC(C)(CO)CO | C5H12O2
product | 5,5-Dimethyl-2-(3-trifluoromethylphenyl)-[1,3,2]dioxaborinane | 58% | CC1(COB(OC1)C1=CC(=CC=C1)C(F)(F)F)C | C12H14BF3O2
